US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and thiophenol, there is obtained phenyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate as a syrup, mass spectrum m/e: M+ 330 (3), 220 (70), 179 (100), 165 (85), 110 (74);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | phenyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(=N)SC3=CC=CC=C3 | C21H18N2S
